US04450162
4-Anilino-5,6-dimethylpyrimidine hydrochloride (Compound No. 23)
To 4.3 g (0.03 mole) of 4-chloro-5,6-dimethylpyrimidine were added 2.8 g (0.03 mole) of aniline; the mixture was then heated at 100°-150° C. for about 3 minutes. The reaction mixture quickly became a solution and soon produced a precipitate, which was collected by filtration and then recrystallised from ethanol to give 3.2 g(yield 40%) of the desired Compound No. 23, in the form of a colourless powder melting at 243°-245° C.

reactant | 4-chloro-5,6-dimethylpyrimidine | 0.03 mole, 4.3 g | ClC1=NC=NC(=C1C)C | C6H7ClN2
reactant | aniline | 0.03 mole, 2.8 g | NC1=CC=CC=C1 | C6H7N
product | 4-Anilino-5,6-dimethylpyrimidine hydrochloride | 3.2 g, yield 40% | Cl.N(C1=CC=CC=C1)C1=NC=NC(=C1C)C | InChI=1S/C12H13N3.ClH/c1-9-10(2)13-8-14-12(9)15-11-6-4-3-5-7-11;/h3-8H,1-2H3,(H,13,14,15);1H
